US04935430
(a) 4-Chloro-1-(5-ethoxycarbonylpyrid-2-yl)-2-methylimidazo[4,5-c]pyridine
4-Chloro-2-methylimidazo[4,5-c]pyridine described in C.A. 79, 105515f but made by the method of Chem. Pharm. Bull, 12 (8) 866-872 (1964) (3.34 g, 20 mmol), and ethyl 6-chloronicotinate (3.71 g, 26.2 mmol) were dissolved in N,N-dimethylformamide (42 ml). Potassium carbonate (2.76 g, 20 mmol) was added and the reaction was refluxed overnight. The reaction mixture was cooled, the solvent removed under reduced pressure and the crude product purified by flash chromatography eluting with ethyl acetate. Fractions containing product were evaporated and the resulting foam triturated with ether. The solid was filtered and dried under reduced pressure yielding the title compound as a yellow solid (3.2 g, 51%). 1H NMR (3000 MHz, CHCL3) 1.47 (3H, t, J 6 Hz), 2.84 (3H, s), 4.56 (2H, q, J 6 Hz), 7.38 (1H, d, J 4 Hz), 7.59 (1H, d, J 6 Hz), 8.25 (1H, d, J 4 Hz), 8.63 (1H, d, J 6 Hz), 9.36 (1H, s).

reactant | 4-Chloro-2-methylimidazo[4,5-c]pyridine | ClC1=NC=CC2=C1N=C(N2)C | C7H6ClN3
reactant | ethyl 6-chloronicotinate | 26.2 mmol, 3.71 g | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
reactant | Potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 42 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-1-(5-ethoxycarbonylpyrid-2-yl)-2-methylimidazo[4,5-c]pyridine | 3.2 g, 51% | ClC1=NC=CC2=C1N=C(N2C2=NC=C(C=C2)C(=O)OCC)C | C15H13ClN4O2
